Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right sided facial paralysis/drooping and right hip pain.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ year old male with past medical history notable for major 
depressive disorder, multiple suicide attempts requiring 
inpatient hospitalizations, psoriasis, who presents with acute 
onset right sided fical paralysis for three days.

Three days ago, patient noticed that he had a right facial 
droop.  He was not able to smile and his droop seemed to worsen. 
 Addtionally he had some difficulty closing his righ eyes. He 
had hoped that his symptoms would resolve spontaneously but they 
persisted and he sought medical attention.  Reports slurring of 
speech because he is not able to close his lips properly.  
However denies any headaches, weakness, numbness, visual changes 
or other neurological symptoms. Denies any cold sores on the 
mouth or any history of genital herpes.  Patient lives in the 
woods in ___, ___ but has not noticied any tick bites.  
Denies any fevers, chills, rashes, myalgias, vision changes, 
nausea, vomiting, diarrhea, abdominal pain, or any viral 
syndrome.

Patient also reports a 2 week history of constant, sharp 
shooting pains radiating from the lower back down the posterior 
right thigh to the knee.  Pain is worsened with extention of the 
legs and seem to be worsened with sitting.  Denies any trauma, 
bowel/bladder incontinence, or point tenderness.
  
In the ED, initial VS: T 97.8, HR 90 BP 133/90 O2 100%RA.  
Patient had an LP which showed elavted protein to 96 but 
otherwise normal WBC, RBC.  Lyme serologies were sent.  Patient 
was started on IV ceftriaxone due to concern for lyme disease 
and admitted for further management. 
 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
- Psoriasis with scalp and forehead involement.
- Major Depression: Diagnosed with major depression in ___. 
Hospitalized multiple times for depression. His first 
hospitalization occured in ___ after overdosing on a bottle of 
klonopin leading to a 3 week hospitalization. His most recent 
hospitalization was over the ___ and lasted 10 days. 
He has had two suicide attempts in the past, in ___ and ___ 
both through medication overdose.
 
Social History:
___
Family History:
His oldest sister suffers from depression and takes medications 
though the patient is unaware what she takes. She has never had 
ECT, hospitalizations or suicide attempts. She is disabeled 
after an accident left her with brain damage. 
 
Physical Exam:
VS: T 97.3 BP 100/69 HR 63 O2 96%RA
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no cervical lymphadenopathy  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
HEART: RRR, nl S1-S2, no murmurs. 
ABDOMEN: Soft/NT/ND, no CVA tenderness 
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.   

NEURO Exam: Per Neuro Note:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Able to read without difficulty.  Speech was not dysarthric. 
Able
to follow both midline and appendicular commands. Pt. was able 
to
register 3 objects and recall ___ at 5 minutes.  The pt. had 
good
knowledge of current events.  There was no evidence of apraxia 
or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 2 to 1mm and brisk.  VFF to confrontation. Funduscopic 
exam revealed no papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: right facial droop with LMN pattern (involves both upper 
and
lower face), diminished taste to sugar on R tongue, no 
hyperacuity. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     4+  4+
R  5    ___   ___  5   5    5  5     5     4+  4+
Positive response to straight ipsilateral leg lift, no response
to contralateral leg lift. 

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Preferential to left leg. Narrow-based, 
normal stride and arm swing. Able to walk in tandem without 
difficulty. Romberg absent. 
 
Pertinent Results:
Complete Blood Count:
___ 10:54AM BLOOD WBC-8.4 RBC-5.10 Hgb-15.6 Hct-45.4 MCV-89 
MCH-30.6 MCHC-34.4 RDW-14.2 Plt ___
___ 07:27AM BLOOD WBC-7.5 RBC-4.98 Hgb-15.2 Hct-44.0 MCV-88 
MCH-30.6 MCHC-34.7 RDW-14.4 Plt ___
___ 06:05AM BLOOD WBC-8.2 RBC-4.65 Hgb-14.8 Hct-42.9 MCV-92 
MCH-31.7 MCHC-34.4 RDW-14.0 Plt ___

___ 07:27AM BLOOD ESR-6

___ 10:54AM BLOOD Glucose-118* UreaN-14 Creat-0.9 Na-140 
K-4.8 Cl-106 HCO3-22 AnGap-17
___ 07:27AM BLOOD Glucose-83 UreaN-16 Creat-1.2 Na-140 
K-4.2 Cl-104 HCO3-26 AnGap-14
___ 06:05AM BLOOD Glucose-83 UreaN-18 Creat-1.0 Na-141 
K-4.2 Cl-106 HCO3-26 AnGap-13

___ 07:27AM BLOOD ALT-19 AST-20 LD(LDH)-150 AlkPhos-53 
TotBili-0.4

___ 06:05AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.1

___ 10:54AM BLOOD CRP-2.6
___ 07:27AM BLOOD CRP-1.8

___ 10:54AM BLOOD ___
___ 04:25PM BLOOD HIV Ab-NEGATIVE
___ 03:06PM BLOOD Lactate-1.2

Urine:
___ 11:10AM URINE Color-Straw Appear-Clear Sp ___
___ 11:10AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

CSF:
___ 12:50PM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-1* Polys-0 
___ ___ 12:50PM CEREBROSPINAL FLUID (CSF) TotProt-96* 
Glucose-64
___ 12:50PM CEREBROSPINAL FLUID (CSF) VARICELLA DNA 
(PCR)-PND
___ 12:50PM CEREBROSPINAL FLUID (CSF) CYTOMEGALOVIRUS - 
PCR-PND
___ 12:50PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-Test Reque
___ 02:55PM CEREBROSPINAL FLUID (CSF) BORRELIA BURG___ 
ANTIBODY INDEX FOR CNS INFECTION-PND

RPR Negative.

Urine Culture (___): No growth.

Blood Culture (___): No growth to date.

CSG Culture:
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

ECG (___): Normal sinus rhythm. Slight non-specific T wave 
changes. Compared to the previous tracing of ___ no 
diagnostic interval change. 

CXR (___): Normal heart, lungs, hila and pleural surfaces. 
Mild fullness to the left superior mediastinum has been a 
constant feature since at least ___, presumably 
tortuous head and neck vessels. Stability over ___ years and 
the absence of abnormality in the proximal ribs suggests this is 
not a finding to investigate any further. 

Pending Labs on Discharge: 
CSF and serology lyme studies
VZV
CMV
HIV
 
Brief Hospital Course:
___ year old male with PMH notable for major depressive disorder, 
multiple suicide attempts requiring inpatient hospitalizations, 
psoriasis, who presents with acute onset right sided facial 
paralysis involing the forehead.

# VII Nerve Facial Palsy: Unclear etiology, though the deficits 
found in the functions of the VII nerve with forehead 
involvement was suggestive of a peripheral nerve process, i.e 
facial nerve palsy/Bell's palsy. Differential for the VII nerve 
palsy included lyme disease (given patient's living situation in 
a wooded area), and patient was empirically started on IV 
ceftriaxone. Differential also included a viral source, such as 
VZV, CMV, HSV and HIV. In the ED, patient had an LP which showed 
normal WBC, RBC, glucose but elevated protein to 96. Neurology 
team was consulted who had high suspicion for lyme disease. ___, 
ESR and CRP were also sent to rule out inflammatory processes, 
and were all unremarkable. Central processes such as tumor, 
multiple sclerosis were considered unlikely given lack of 
headaches, visual changes, weakness, numbness in the 
extremities. Patient was not started on prednisone given time 
window as well as pending infectious workup. Patient was 
discharged on oral doxycyclyine for three week course for 
presumed lyme disease with lyme studies pending at the time of 
discharge. Labs to be followed by primary care physician, who 
will contact patient to discontinue antibiotic therapy if lyme 
results are negative. Will follow up with neurology as an 
outpatient.

#Hip/buttock pain: Patient's description of two week history of 
sharp pain in his right buttock radiating down to his calf 
suggested a peripheral radiculopathy e.g sciatica. It was 
unclear if this radiculopathy was related to the facial palsy.  
Patient will follow up with neurology for monitoring of 
symptoms.

#Depression/Anxiety/Bipolar disease: Per outpatient 
psychiatrist, Citalopram dose was doubled to 40mg daily.  
Continued Abilify and Clonazapem at home dose.
 
Transition of Care:
- Patient's PCP, ___ follow up on patient's pending 
labs and determine further treatment.
- Patient will also follow up with neurology as outpatient to 
monitor for resolution of symptoms.
Pending labs on discharge: Lyme serologies, HIV, CSF Lyme 
titers, VZV and CMV.
 
Medications on Admission:
- ARIPIPRAZOLE [ABILIFY] - 20 mg Tablet -1 tablet qhs
- CITALOPRAM - 20 mg Tablet - 1 Tablet(s) by mouth daily
- CLOBETASOL - 0.05 % Cream - apply once or twice daily x ___ 
days
when needed. take 7 day breaks between cycles of use
- CLOBETASOL [CLOBEX] - 0.05 % Shampoo - Use to scalp ___ times 
a
week.
- CLONAZEPAM - 1 mg Tablet - 1 Tablet(s) by mouth tid prn
- ZOLPIDEM - 10 mg Tablet - 1 Tablet(s) by mouth qhs prn 
insomnia
 
Discharge Medications:
1. zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

2. citalopram 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*
3. aripiprazole 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. clonazepam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
5. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain for 10 days: Take with food.
Disp:*30 Tablet(s)* Refills:*0*
6. doxycycline hyclate 100 mg Capsule Sig: One (1) Capsule PO 
twice a day for 21 days.
Disp:*42 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. VII Nerve Facial Palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, it was a pleasure taking care of you during 
your ___.  You came to the hospital because 
the right side of your face was drooping; your smile was 
assymetric and you were unable to wrinkle the right side of your 
forhead. Your symptoms were consistent with facial palsy 
possibly from lyme disease.  Therefore you were started on 
empiric antibiotcs for lyme disease. On discharge other labs 
looking for viruses which cause similar symptoms were pending.  
You were discharged on oral antibiotcs. Please follow up with 
your PCP, ___ will follow up on your pending labs and 
decide on future treatment. You will be contacted in the next 
___ days in regards to your pending lyme tests. IF negative, you 
will be instructed to stop your antibiotics. Your should start 
regaining some of your facial functions within ___ weeks. 
.
We have made the following Medications changes for you.
- INCREASED Citalopram from 20mg to 40mg daily per your 
psychiatrist
- STARTED Doxycycline 100mg twice a day for 21 days.
- STARTED Ibuprofen for your buttoch and leg pain.  Please take 
this medication after eating a meal.
.
Please keep your appointments as listed below.
 
Followup Instructions:
___